US09427475B2
Step B: N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysine
In a 100 mL flask, N2-[(benzyloxy)carbonyl]-N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysine (200 mg, 0.335 mmol) was dissolved in water (5 mL). The flask was degassed and filled with N2. To the above mixture was added PdOH2 (48.7 mg, 0.069 mmol. The mixture was stirred under H2 balloon for 2 hr. The mixture was filtered through a pad of Celite, and the filtrate was concentrated to give the title compound. UPLC Method B: m/e=464.2697 [M+1]; Rt=2.61 min.

reactant | N2-[(benzyloxy)carbonyl]-N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysine | 0.335 mmol, 200 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCCNC(CCCCC(=O)NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)C(=O)O | C28H43N3O11
solvent | water | 5 mL | O | H2O
product | N6-[6-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-6-oxohexanoyl]-L-lysine | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)OCCNC(CCCCC(=O)NCCCC[C@H](N)C(=O)O)=O | C20H37N3O9
